US07759379B2
N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethylimidazolidin-1-yl)-2-trifluoromethoxyphenyl]nicotinamide; Compound with Trifluoroacetic Acid
51 mg (0.51 mmol) of triethylamine and 45 mg (0.25 mmol) of 3-nicotinyl chloride are added to 100 mg (0.25 mmol) of 3-(3-amino-4-trifluoromethoxyphenyl)-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione in 5 ml of THF and stirred at RT for 6 h. For workup, the mixture was added to water, extracted with ethyl acetate, dried and concentrated. The remaining residue was purified by means of preparative HPLC (RP18, acetonitrile/water, 0.1% TFA). Yield: 50 mg.

reactant | triethylamine | 0.51 mmol, 51 mg | C(C)N(CC)CC | C6H15N
reactant | 3-(3-amino-4-trifluoromethoxyphenyl)-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione | 0.25 mmol, 100 mg | NC=1C=C(C=CC1OC(F)(F)F)N1C(N(C(C1=O)(C)C)CC1=CC=NC=C1)=O | C18H17F3N4O3
reactant | water | O | H2O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethylimidazolidin-1-yl)-2-trifluoromethoxyphenyl]nicotinamide; Compound with Trifluoroacetic Acid | FC(C(=O)O)(F)F.CC1(N(C(N(C1=O)C=1C=CC(=C(C1)NC(C1=CN=CC=C1)=O)OC(F)(F)F)=O)CC1=CC=NC=C1)C | InChI=1S/C24H20F3N5O4.C2HF3O2/c1-23(2)21(34)32(22(35)31(23)14-15-7-10-28-11-8-15)17-5-6-19(36-24(25,26)27)18(12-17)30-20(33)16-4-3-9-29-13-16;3-2(4,5)1(6)7/h3-13H,14H2,1-2H3,(H,30,33);(H,6,7)
